US06248770B1
i. (R)-2-(4-cyanophenylaminomethyl)-1-methyl-5-[1-amino-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole
Prepared analogously to Example 6i from (R)-2-(4-cyanophenylaminomethyl)-1-methyl-5-[1-(N-tert.butyloxycarbonylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole and 6N hydrochloric acid in dioxane.

reactant | (R)-2-(4-cyanophenylaminomethyl)-1-methyl-5-[1-(N-tert.butyloxycarbonylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole | C(#N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NC(=O)OC(C)(C)C | C28H34N6O3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-2-(4-cyanophenylaminomethyl)-1-methyl-5-[1-amino-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole | C(#N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)N | C23H26N6O
